US09403846B2
Step 3. Synthesis of methyl rel-(3R,3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole-3-carboxylate (C36)
Methyl (2E)-5-cyclopropyl-5-{[2-(hydroxyimino)ethyl]oxy}pent-2-enoate (C35) was converted to the product using the method described for synthesis of rel-(3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C18) in Example 2. The product was obtained as a solid; the indicated relative stereochemistry was assigned by analogy with C27 in Example 3. Yield: 3.30 g, 14.7 mmol, 95%. 1H NMR (400 MHz, CDCl3) δ 4.70 (br d, J=13.3 Hz, 1H), 4.61 (d, J=10.2 Hz, 1H), 4.13 (dd, J=13.3, 1.2 Hz, 1H), 3.83 (s, 3H), 3.55-3.64 (m, 1H), 2.84 (ddd, J=11.0, 7.9, 1.9 Hz, 1H), 2.39 (ddd, J=12.9, 6.6, 1.7 Hz, 1H), 1.75 (ddd, J=12.9, 11.5, 11.3 Hz, 1H), 0.89-0.98 (m, 1H), 0.51-0.64 (m, 2H), 0.38-0.45 (m, 1H), 0.22-0.29 (m, 1H).

reactant | Methyl (2E)-5-cyclopropyl-5-{[2-(hydroxyimino)ethyl]oxy}pent-2-enoate | C1(CC1)C(C/C=C/C(=O)OC)OCC=NO | C11H17NO4
reactant | rel-(3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2C(=NOC2)CO1 | C9H13NO2
product | methyl rel-(3R,3aR,5R)-5-cyclopropyl-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole-3-carboxylate | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2C(=O)OC)CO1 | C11H15NO4
